Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
codeine / propaxyphene / prednisone / oxybutynin / 
nitrofurantoin / duloxetine / escitalopram / Darvon / Darvocet-N
 
Attending: ___
 
___ Complaint:
Left knee osteoarthritis
 
Major Surgical or Invasive Procedure:
___: Left total knee replacement

 
History of Present Illness:
Patient is a ___ year old female with history of osteoarthritis 
who presents with worsening L knee pain over the past year. She 
was previously booked to have a left knee total knee 
arthroplasty back in ___ but due to unknown
reasons she cancelled. Pt returned to clinic with worsening L>R 
knee pain and has required a rolling walker for ___ year d/t 
pain. She received bilateral knee steroid injections in 
___, which improved her pain for ___ months. Given these 
findings and failed non-operative measures, patient has elected 
to undergo L TKR on ___. 
 
Past Medical History:
CHF (EF 35%)
Dyslipidemia
Afib (on xarelto)
HTN
Ischemic heart disease w/stable angina
Gout
GERD
Recurrent UTI
 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
* Aquacel dressing with scant serosanguinous drainage  
* Thigh full but soft  
* No calf tenderness  
* ___ strength  
* SILT, NVI distally  
* Toes warm
 
Pertinent Results:
___ 06:30AM BLOOD WBC-11.7* RBC-2.90* Hgb-9.1* Hct-27.0* 
MCV-93 MCH-31.4 MCHC-33.7 RDW-15.1 RDWSD-52.5* Plt ___
___ 06:50AM BLOOD WBC-12.7* RBC-3.74* Hgb-11.6 Hct-34.9 
MCV-93 MCH-31.0 MCHC-33.2 RDW-15.0 RDWSD-51.1* Plt ___
___ 06:40AM BLOOD WBC-12.6* RBC-3.48* Hgb-10.8* Hct-31.9* 
MCV-92 MCH-31.0 MCHC-33.9 RDW-14.8 RDWSD-49.7* Plt ___
___ 06:30AM BLOOD Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:50AM BLOOD K-4.1
___ 06:40AM BLOOD Glucose-122* UreaN-20 Creat-1.0 Na-142 
K-4.4 Cl-100 HCO3-25 AnGap-17
___ 06:50AM BLOOD Mg-1.9
___ 06:40AM BLOOD Calcium-8.1* Phos-3.9 Mg-1.5*
 
Brief Hospital Course:
BRIEF HISTORY: 
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Postoperative course was remarkable for the following:
POD#0, the patient had episodes of afib with RVR overnight, 
which came down with her home Metoprolol.
POD#1, she received 5 mg IV Metoprolol for continued afib with 
RVR.  She was given a 500 mL bolus of fluid for a low BP after 
working with physical therapy.
POD#2, Her WBC was 12.7 and she had a tmax of 100.1. She was 
requiring 1LNC with O2 saturations low to mid 90's. A chest xray 
was obtained and showed no pneumonia/infectious process. Urine 
studies were obtained and the urinalysis was negative.  The 
urine culture was pending at time of discharge.  The rehab will 
be contacted if the urine culture comes back positive and needs 
to be treated.
POD#3, the patient was unable to void.  A foley was replaced and 
a voiding trial will be performed on ___ at the rehab.

Otherwise, pain was controlled with a combination of IV and oral 
pain medications. The patient received Xarelto 10 mg daily (half 
of her home dose) given her high bleeding risk starting on the 
morning of POD#1. The surgical dressing will remain on until 
POD#7 after surgery. The patient was seen daily by physical 
therapy. Labs were checked throughout the hospital course and 
repleted accordingly. At the time of discharge the patient was 
tolerating a regular diet and feeling well. The patient was 
afebrile with stable vital signs. The patient's hematocrit was 
acceptable and pain was adequately controlled on an oral 
regimen. The operative extremity was neurovascularly intact and 
the dressing was intact. 

The patient's weight-bearing status is weight bearing as 
tolerated on the operative extremity. 
 
Ms. ___ is discharged to rehab in stable condition.

 
Medications on Admission:
1. Alendronate Sodium 70 mg PO QSUN 
2. BuPROPion (Sustained Release) 150 mg PO QAM 
3. Calcium Carbonate 500 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. cranberry 400 mg oral DAILY 
6. Diazepam 10 mg PO Q12H:PRN anxiety 
7. Diltiazem Extended-Release 120 mg PO DAILY 
8. FoLIC Acid 1 mg PO BID 
9. Furosemide 20 mg PO DAILY 
10. Acidophilus (Lactobacillus acidophilus)    oral DAILY 
11. Losartan Potassium 25 mg PO DAILY 
12. Metoprolol Tartrate 25 mg PO BID 
13. Myrbetriq (mirabegron) 50 mg oral DAILY 
14. Nitroglycerin SL 0.4 mg SL PRN chest pain 
15. Pantoprazole 40 mg PO Q24H 
16. Rivaroxaban 20 mg PO QHS 
17. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  Gabapentin 300 mg PO TID  
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain 
5.  Senna 8.6 mg PO BID  
6.  Rivaroxaban 10 mg PO QHS 
You should remain at 10 mg at bedtime x 4 weeks, then resume 20 
mg.  
7.  Acidophilus (Lactobacillus acidophilus)    oral DAILY  
8.  Alendronate Sodium 70 mg PO QSUN  
9.  BuPROPion (Sustained Release) 150 mg PO QAM  
10.  Calcium Carbonate 500 mg PO DAILY  
11.  cranberry 400 mg oral DAILY  
12.  Diazepam 10 mg PO Q12H:PRN anxiety  
13.  Diltiazem Extended-Release 120 mg PO DAILY  
14.  FoLIC Acid 1 mg PO BID  
15.  Furosemide 20 mg PO DAILY  
16.  Losartan Potassium 25 mg PO DAILY  
17.  Metoprolol Tartrate 25 mg PO BID  
18.  Myrbetriq (mirabegron) 50 mg oral DAILY  
19.  Nitroglycerin SL 0.4 mg SL PRN chest pain  
20.  Pantoprazole 40 mg PO Q24H  
21.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left knee osteoarthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
 
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
 
3. Resume your home medications unless otherwise instructed.
 
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
 
5. You may not drive a car until cleared to do so by your 
surgeon.
 
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment in three (3) weeks.
 
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. You may wrap the knee with an ace bandage 
for added compression. Please DO NOT take any non-steroidal 
anti-inflammatory medications (NSAIDs such as Celebrex, 
ibuprofen, Advil, Aleve, Motrin, naproxen etc) until cleared by 
your physician.
 
8. ANTICOAGULATION: Please continue your xarelto 10 mg daily for 
four weeks, then resume your home dose of 20 mg daily to help 
prevent deep vein thrombosis (blood clots).  
 
9. WOUND CARE: Please remove Aquacel dressing on POD#7 after 
surgery. It is okay to shower after surgery after 5 days but no 
tub baths, swimming, or submerging your incision until after 
your four (4) week checkup. Please place a dry sterile dressing 
on the wound after aqaucel is removed each day if there is 
drainage, otherwise leave it open to air. Check wound regularly 
for signs of infection such as redness or thick yellow drainage. 
 Staples will be removed by your doctor at follow-up appointment 
approximately 3 weeks after surgery.
 
10. ___ (once at home): Home ___, dressing changes as 
instructed, and wound checks.
 
11. ACTIVITY: Weight bearing as tolerated on the operative 
extremity. Mobilize with assistive devices (___) if 
needed.  Range of motion at the knee as tolerated. No strenuous 
exercise or heavy lifting until follow up appointment.
 
Physical Therapy:
KNEES:
WBAT affected extremity
ROMAT
Wean assistive device as able (i.e. 2 crutches or walker)
Mobilize frequently 

Treatments Frequency:
remove aquacel POD#7 after surgery
apply dry sterile dressing daily if needed after aquacel 
dressing is removed
wound checks daily after aquacel removed
staple removal and replace with steri-strips at follow up visit 
in clinic 
 
Followup Instructions:
___